US07691866B2
As set forth in reaction Scheme C, quinoline2,6-diol is chlorinated with POCl3 to obtain 2-chloroquinolin-6-ol, which is reacted with a desired amine substituent, in this case 4-bromo-3-methylaniline, and to obtain the amine substituted quinolinol. A mixture of the alcohol and potassium bis(trimethylsilyl)amide in dimethylformamide is reacted with a desired substituent at the alcohol group, in this case dimethylformamide, to obtain the desire product, in this case (4-{2-[(4-bromo-3-methylphenyl)amino](6-quinolyloxy)}(2-pyridyl))-N-methylcarboxamide.

reactant | quinoline2,6-diol | N1=C(C=CC2=CC(=CC=C12)O)O | C9H7NO2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
